US04883789
Part C: Preparation of 3-(4-fluoro-3-phenoxyphenyl)-1-propene
A mixture of 44.4 g (0.163 mole) of 2-(4-fluorophenoxyphenyl-2-propen-1-yl formate, 0.37 g (0. mole) of palladium acetate, and 4.28 g (0.0163 mole) of triphenylphosphine in 300 mL of 1,4-dioxane was heated at reflux for one hour. To this mixture was added 19.7 g (0.163 mole) of allyl bromide, and heating at reflux was continued for two additional hours. The reaction mixture was filtered through silica gel, and the solvent was evaporated from the filtrate under reduced pressure, leaving a brown liquid. This liquid was distilled using a Kugelrohr distillation apparatus. The distillate, 24 g, b.p. 80-90° C./0.15 mm of Hg, was a clear, slightly brown liquid. Gas chromatographic analysis of this liquid determined that it was composed of 86% 3-(4-fluoro-3-phenoxyphenyl)-1-propene and 14% 1-(4-fluoro-3-phenoxyphenyl)-1-propene. The ir and nmr spectra were consistent with these proposed structures.

reactant | 4-fluorophenoxyphenyl-2-propen-1-yl formate | C(=O)OCC=C(C1=CC=CC=C1)OC1=CC=C(C=C1)F | C16H13FO3
reactant | triphenylphosphine | 0.0163 mole, 4.28 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | allyl bromide | 0.163 mole, 19.7 g | C(C=C)Br | C3H5Br
reactant | 1,4-dioxane | 300 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.37 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(4-fluoro-3-phenoxyphenyl)-1-propene | FC1=C(C=C(C=C1)CC=C)OC1=CC=CC=C1 | C15H13FO
